US07067667B2
8-Chloro-7-hydroxyethyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one
380 mg (1.2 mmol) of 7-acetoxyethyl-8-chloro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one is dissolved in 30 ml of methanol and mixed with 341 mg (2.5 mmol) of potassium carbonate. After 3 days at room temperature, the batch is diluted with ethyl acetate, washed with water, dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography on silica gel with ethyl acetate-ethanol yields 270 mg of product.

reactant | 7-acetoxyethyl-8-chloro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 1.2 mmol, 380 mg | C(C)(=O)OCCC=1C(=CC=2C3C(C(NC2C1)=O)CCC3)Cl | C16H18ClNO3
reactant | potassium carbonate | 2.5 mmol, 341 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 30 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-Chloro-7-hydroxyethyl-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 270 mg | ClC1=CC=2C3C(C(NC2C=C1CCO)=O)CCC3 | C14H16ClNO2
